US07932272B2
Quinoline-6-carboxylic acid (4-benzyloxy phenyl)-amide
To a solution of 6-quinolinecarboxylic acid (500 mg, 2.89 mmol) and 4-benzyloxyphenylamine (681 mg, 2.89 mmol) in dichloromethane (25 mL) were added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (1.53 g, 3.47 mmol) and triethylamine (0.96 mL, 6.94 mmol), and the solution was stirred overnight at room temperature. The solvent was evaporated, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate), and the title compound (194 mg, 19%) was obtained as a white solid.

reactant | 6-quinolinecarboxylic acid | 2.89 mmol, 500 mg | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | 4-benzyloxyphenylamine | 2.89 mmol, 681 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N | C13H13NO
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 3.47 mmol, 1.53 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 6.94 mmol, 0.96 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Quinoline-6-carboxylic acid (4-benzyloxy phenyl)-amide | 194 mg, 19% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)C=1C=C2C=CC=NC2=CC1 | C23H18N2O2
